US04285942
1-(Diisopropylamino-ethoxyimino)cyclododecane
Starting from 2.4 g. (0.1 moles) of sodium hydride, 19.73 g. (0.1 moles) of cyclododecanone oxime and 17.95 g. (0.11 moles) of 1-diisopropylamino-2-chloroethane the title compound is prepared as in Example 1. Yield: 22.1 g. (68.20%); b.p.: 164°-166° C./0.6 torr. Hydrogen fumarate, m.p.: 120°-121° C.

reactant | sodium hydride | 0.1 moles | [H-].[Na+]
reactant | cyclododecanone oxime | 0.1 moles | C1(CCCCCCCCCCC1)=NO | C12H23NO
reactant | 1-diisopropylamino-2-chloroethane | 0.11 moles | C(C)(C)N(CCCl)C(C)C | C8H18ClN
reactant | Hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | 1-(Diisopropylamino-ethoxyimino)cyclododecane | C(C)(C)N(C(C)C)CCON=C1CCCCCCCCCCC1 | C20H40N2O
